US08227462B2
5-(6-Cyclopropyl-pyrazin-2-yl)-4-methyl-thiazol-2-ylamine
Concentrated hydrochloric acid (0.4 ml) is added to N-[5-(6-cyclopropyl-pyrazin-2-yl)-4-methyl-thiazol-2-yl]-acetamide (120 mg) in ethanol (9 ml) at room temperature and the mixture is heated at reflux for 18 hours. The cooled reaction mixture is evaporated, neutralized with aqueous sodium hydrogen carbonate and extracted with 10% methanol in DCM. The combined organic extracts are dried over sodium sulphate and evaporated to give the title compound. HPLC/MS: retention time 0.93 minutes, M+H 233.3.

reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | N-[5-(6-cyclopropyl-pyrazin-2-yl)-4-methyl-thiazol-2-yl]-acetamide | 120 mg | C1(CC1)C1=CN=CC(=N1)C1=C(N=C(S1)NC(C)=O)C | C13H14N4OS
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 5-(6-Cyclopropyl-pyrazin-2-yl)-4-methyl-thiazol-2-ylamine | C1(CC1)C1=CN=CC(=N1)C1=C(N=C(S1)N)C | C11H12N4S
